US06469176B1
Preparation of 3-(2-Methyl-6-methylthiophenyl)-4,5-dihydro-isoxazole (Process Step d)—Variant B)
40 g (0.22 mol) of 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline and 1.5 g of copper powder are initially charged in 300 ml of dimethyl disulfide, and 26.1 g of n-butyl nitrite (0.23 mol) are added dropwise at 55-66° C. The mixture is then stirred at 60° C. for 1.5 hours. For work-up, the hot mixture is filtered through activated carbon and then washed with dilute hydrochloric acid and water and then concentrated under reduced pressure. This gives 44.5 g (88%) of a dark oil which solidifies after a while (content according to HPLC (95%). The product can be purified further by trituration with methyl tert-butyl ether.

reactant | 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 0.22 mol, 40 g | O1N=C(CC1)C1=C(N)C=CC=C1C | C10H12N2O
reactant | n-butyl nitrite | 0.23 mol, 26.1 g | N(=O)OCCCC | C4H9NO2
reactant | dimethyl disulfide | 300 ml | CSSC | C2H6S2
catalyst | copper | 1.5 g | [Cu] | Cu
product | 3-(2-Methyl-6-methylthiophenyl)-4,5-dihydro-isoxazole | CC1=C(C(=CC=C1)SC)C1=NOCC1 | C11H13NOS
